US07211672B2
(±)-Cis-2-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetamide was prepared from (±)-cis-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetic acid ethyl ester, via the same amidation procedure used in the synthesis of (±)-cis-N-[6-carbamoylmethoxy-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-propionamide.

reactant | (±)-cis-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetic acid ethyl ester | C(C)OC(COC1=CC=C2[C@@H](C[C@@H](N(C2=C1)C(C1=CC=C(C=C1)N(C)C)=O)C)N(C1=CC=C(C=C1)Cl)C(C)=O)=O | C31H34ClN3O5
reactant | (±)-cis-N-[6-carbamoylmethoxy-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-propionamide | C(N)(=O)COC=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C1=CC=C(C=C1)F)=O)C)N(C(CC)=O)C1=CC=C(C=C1)Cl | C28H27ClFN3O4
product | (±)-Cis-2-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetamide | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC(=CC=C12)OCC(=O)N)C(C1=CC=C(C=C1)N(C)C)=O)C)C1=CC=C(C=C1)Cl | C29H31ClN4O4
